US07560551B2
A high pressure steel bomb was charged with N-(4-(3-(2-fluoropyridin-4-yl)pyridin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine (0.115 g, 0.237 mmol), potassium carbonate (0.049 g, 0.355 mol) and 3.0 mL of THF. The bomb was sealed, cooled to 0° C. and pressurized with methylamine gas. The reaction mixture was allowed to warm to RT, and heated at 80° C. for 45 h. Upon cooling, the reaction mixture was filtered through a fritted funnel, washed with MeOH, and concentrated. This mixture was purified by silica gel chromatography, (ISCO, 40 g column 0-10% MeOH/dichloromethane) to provide N-(4-(3-(2-(methylamino)pyridin-4-yl)pyridin4-yloxy)phenyl)-4-phenylphthalazin-1-amine as a light yellow solid. MS m/z=497 [M+H]+. Calc'd for C31H24N6O: 496.56.

reactant | N-(4-(3-(2-fluoropyridin-4-yl)pyridin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine | 0.237 mmol, 0.115 g | FC1=NC=CC(=C1)C=1C=NC=CC1OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C30H20FN5O
reactant | potassium carbonate | 0.355 mol, 0.049 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylamine | CN | CH5N
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | N-(4-(3-(2-(methylamino)pyridin-4-yl)pyridin4-yloxy)phenyl)-4-phenylphthalazin-1-amine | CNC1=NC=CC(=C1)C=1C=NC=CC1OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C31H24N6O
